Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left arm weakness, numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ gentleman without significant
medical history who presented initially with left arm numbness
and weakness and was subsequently found to have atrial
fibrillation with RVR.

The patient reports that the week prior to presentation, he had
been walking his mail route and sweating profusely. Then, on the
day prior to admission, he experienced an episode of
lightheadedness (near blacking out) when standing up from a
seated position. He did not make much of his symptoms, and went
to ___ to watch a baseball game. While in line for his
tickets, the patient noticed that he was unable to move or feel
his left arm at all from the shoulder downwards at approximately
6:15PM. He also felt that he was walking very slowly. Based on
these symptoms, the patient left the line and went to an aid
station where he got some water. After drinking a little bit and
walking around, the strength and sensation in his arm began to
return (after approximately 20min). He subsequently presented to
___ ER for further evaluation. 

In the ED, the patient's initial vitals were T 98.0F, HR 132, BP
123/88, RR 18, O2 sat 97% RA. Labs were notable for normal CBC,
chem panel, LFTs, coags, and urine drug screen. UA demonstrated 
6
WBCs. EKG was obtained and demonstrated atrial fibrillation with
ventricular rate of 176, normal axis and intervals, and no ST-T
changes consistent with ischemia. CTA head/neck was obtained and
demonstrated no evidence of vascular occlusion, stenosis,
aneurysm, or dissection. Patient was seen by neurology, who
measured his ___ stroke scale as 0. On their evaluation, they
felt that the patient's presentation could be explained by TIA,
although they felt the duration of the patient's symptoms were
less than expected and felt the fact that his symptoms seemed to
gradually improve over time with arm shaking was also
inconsistent. MRI was obtained per neurology recommendations. 
The
patient was given 20mg IV diltiazem with improvement in heart
rate to ___, and subsequently admitted to Medicine for further
management.
 
On the floor, the patient's vitals were T 98.2F, BP 134/96, HR
83, RR 18, O2 sat 99% RA. The patient confirmed the above
history. Additionally, he denied any illicit drug usage and
reports drinking one cup of coffee daily. He denies fevers,
chills, headache, changes in vision/hearing, chest pain,
shortness of breath, abdominal pain, nausea/vomiting, diarrhea,
or dysuria.

 
Past Medical History:
None
 
Social History:
___
Family History:
Mother - DM
Father - ___ cancer, DM 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 98.2F, BP 134/96, HR 83, RR 18, O2 sat 99% RA 
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: irregular rhythm; otherwise normal S1, S2 without murmurs,
rubs, or gallops 
PULM: clear to auscultation bilaterally 
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: CN II-XII intact; strength ___ in bilateral upper and 
lower extremities; sensation intact to light touch in all four 
extremities 
DERM: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD  
HEENT: MMM
NECK: supple 
CV: irregular rhythm; otherwise normal S1, S2 without murmurs,
rubs, or gallops 
PULM: clear to auscultation bilaterally 
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: CN II-XII intact; strength ___ in bilateral upper and
lower extremities; sensation intact to light touch in all four
extremities 
DERM: warm and well perfused

 
Pertinent Results:
PERTINENT LABS:
===============
___ 07:35PM BLOOD WBC-9.6 RBC-4.59* Hgb-13.9 Hct-41.5 
MCV-90 MCH-30.3 MCHC-33.5 RDW-12.4 RDWSD-40.4 Plt ___
___ 07:35PM BLOOD ___ PTT-29.8 ___
___ 06:00AM BLOOD Glucose-95 UreaN-9 Creat-0.9 Na-141 K-4.1 
Cl-106 HCO3-22 AnGap-13
___ 07:35PM BLOOD ALT-23 AST-26 AlkPhos-94 TotBili-0.3
___ 07:35PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD CK-MB-3 cTropnT-<0.01
___ 06:00AM BLOOD Calcium-8.8 Phos-2.7 Mg-1.9
___ 07:35PM BLOOD %HbA1c-5.1 eAG-100
___ 07:35PM BLOOD Triglyc-127 HDL-40* CHOL/HD-3.9 
LDLcalc-89
___ 07:35PM BLOOD TSH-5.1*
___ 06:00AM BLOOD Free T4-1.0
___ 07:35PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
========
CTA HEAD/NECK ___:
 
1. No acute intracranial abnormality. 
2. No intra or extracranial vessel stenosis, occlusion, 
dissection or aneurysm formation. 
3. Mild dental disease with apical lucencies.  Mild paranasal 
sinus disease. 

MR HEAD ___:
1. Tiny focus of cortical DWI hyperintensity in the primary 
motor cortex.  No ADC correlate visualized, possibly due to its 
small size.  No corresponding T2/FLAIR lesions to suggest T2 
shine through.  Therefore, this small focus of hyperintensity 
could represent a tiny infarct. 
2. Scattered white matter lesions in both cerebral hemispheres 
are nonspecific but suggestive of chronic small vessel ischemic 
changes. 

TTE ___:
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. There is no
evidence of an atrial septal defect or patent foramen ovale by 
2D/color Doppler or agitated saline at rest
and with maneuvers. The estimated right atrial pressure is ___ 
mmHg. There is mild symmetric left
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular
systolic function. There is beat-to-beat variability in the left 
ventricular contractility due to the irregular
rhythm. The visually estimated left ventricular ejection 
fraction is 50-55%. There is no resting left
ventricular outflow tract gradient. Mildly dilated right 
ventricular cavity with normal free wall motion.
The aortic sinus diameter is normal for gender with normal 
ascending aorta diameter for gender. The
aortic arch diameter is normal. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no
mitral valve prolapse. There is trivial mitral regurgitation. 
The tricuspid valve leaflets appear structurally
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is
normal. There is no pericardial effusion.
IMPRESSION: No structural cardiac source of embolism (e.g.patent 
foramen ovale/atrial septal defect,
intracardiac thrombus, or vegetation) seen. Low-normal left 
ventricular systolic function in the setting of
atrial fibrillation. No clinically-significant valvular disease 
seen.

 
Brief Hospital Course:
PATIENT SUMMARY:
Mr. ___ is a ___ gentleman without significant 
medical history (previously with obesity and HTN, now improved 
with lifestyle modification) who presented initially with left 
arm numbness and weakness and was subsequently found to have 
atrial fibrillation with RVR, and small cardioembolic stroke on 
MRI.

TRANSITIONAL ISSUES:
-New meds: Metoprolol succinate, apixaban

[] Has cardiology f/u arranged for consideration of TEE + 
cardioversion
[] Adjust rate control as needed- continued asymptomatic 
tachycardia with exertion while inpatient

ACUTE ISSUES:
=============
# ATRIAL FIBRILLATION: New this admission. At presentation, 
patient was found to be tachycardic to the 170s. EKG 
demonstrated atrial fibrillation. Etiology for atrial 
fibrillation unclear currently. No prior cardiac history, signs 
of ischemia on ECG, free T4 within normal limits, TTE without 
signs of ischemia or valvular disease. CHADSVASC 2 based on 
likely embolic infarct causing left arm weakness/numbness as 
below. Neurology and cardiology recommending anticoagulation. 
- RATE: Discharged on metoprolol succinate 100mg BID. Continued 
to have asymptomatic tachycardia to 150s while inpatient but 
only with ambulation and for short periods. Please adjust rate 
control as needed outpatient
- ANTICOAGULATION: Started on apixaban 5mg BID
- Cardiology consulted for possible TEE/DCCV, please followup 
and arrange as outpatient as he did not want to remain inpatient 
to undergo the procedure.

# CARDIOEMBOLIC STROKE, LEFT ARM WEAKNESS/NUMBESS: Reported left 
arm numbness/weakness and possible hemiballism which resolved 
after several hours and with manipulation of his arm. CTA 
without finding of vascular stenosis or flow defect. MRI with 
small infarct in primary motor cortex that correlates with his 
symptoms, likely cardioembolic from atrial fibrillation
- Apixaban started as above
- Lipid panel without significant abnormalities and given likely 
embolic nature of stroke not discharged on aspirin or statin. 
Please follow-up whether indicated for primary prevention.

___ is clinically stable for discharge today.  On 
the day of discharge, greater than 30 minutes were spent on the 
coordination, communication, and planning of discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
2.  Metoprolol Succinate XL 100 mg PO BID 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atrial fibrillation
Cardioembolic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___!

WHY YOU WERE ADMITTED:
-You had numbness and weakness in your left arm. We were worried 
this was due to a stroke

WHAT HAPPENED IN THE HOSPITAL:
-You were found to have an irregular heart rate called "atrial 
fibrillation"
-You were started on a medication called metoprolol to keep your 
heart rate normal
-You had an MRI of your brain that showed a very small stroke. 
This is likely why you arm was weak and numb.
-The stroke was probably caused by a blood clot from your 
irregular heart rate. 
-You were started on a blood thinner to prevent future blood 
clots and strokes

WHAT YOU SHOULD DO AT HOME:
-Take your blood thinner "apixaban" twice a day
-Take your medicine to keep your heart rate slow "metoprolol" 
twice a day
-Follow-up with your doctor appointments listed below. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Team
 
Followup Instructions:
___